### ISSUE TITLE
Number.isFinite has no reverse bridge: bounds never yield finiteness, so an isFinite conclusion is unprovable

### ISSUE THREAD

**Issue by jessealama** [jessealama/lakatos#237]
`Number.isFinite` is bridged in one direction only. `Float.isFinite x = true`
yields the two strict bounds, but nothing goes the other way, so an
annotation whose conclusion is `Number.isFinite(...)` cannot close even
when the binder's hypotheses pin the value strictly inside the infinities.

#206 built the converse of *guard refutation* (refuted equality tests
yield bounds). This is the other converse, and it is missing.

## Repro

`F.mts`:

```ts
export class Guarded {
  readonly x: number;

  constructor(x: number) {
    if (x === -Infinity || x === Infinity) {
      throw new RangeError("infinite");
    }
    if (Object.is(x, NaN)) {
      throw new RangeError("nan");
    }
    this.x = x;
  }

  /** @ensures{finite} ∀ (p : Guarded) { Number.isFinite(p.value()) } */
  value(): number {
    return this.x;
  }
}
```

```
$ lakatos prove F.mts
{
  "annotations": [
    {
      "file": "F.mts",
      "function": "Guarded#value",
      "property": "finite",
      "szs": "GaveUp",
      "reason": "unsolved goal: ... Except.ok p → Float.isFinite p.x = true"
    }
  ]
}
```

The guards invert fine — the ladder gets `-floatInf < «p.x»` and
`«p.x» < floatInf`. It just cannot walk back to `Float.isFinite`.

## The missing arrow, isolated

```lean
example {x : Float}
    (hn : Number.FloatOps.sameValue x floatNaN = false)
    (hLo : -floatInf < x) (hHi : x < floatInf) :
    Float.isFinite x = true := by
  grind
```

```
error: `grind` failed
  [prop] x.isFinite = true → x < floatInf
  [prop] x.isFinite = true → -floatInf < x
```

Every fact `grind` holds about `isFinite` points the same way. There is no
`def`, no `iff`, and no simp lemma stating the equivalence.

## What the model actually says

`Float.isFinite` is core's, not ours. It unfolds to a four-case match:

```lean
def Float.isFinite : Float → Bool := fun a => a.toModel.isFinite   -- = a.toModel.unpack.isFinite

def Float.Model.UnpackedFloat.isFinite : UnpackedFloat → Bool
  | .notANumber => false
  | .infinity .. => false
  | .zero .. => true
  | .finite .. => true
```

Our side has only `float_lo_of_isFinite` and `float_hi_of_isFinite` in
`Js/Norm.lean`, both `grind_pattern`ed on `Float.isFinite x`, both
hypothesis-to-bounds.

## Proposed fix, verified to compile

`unpack_finite_or_zero` in `Js/Number/FloatFacts.lean` already does the
work; the reverse direction is three lines on top of it.

```lean
/-- Reverse direction: the strict bounds alone give finiteness. -/
theorem isFinite_of_bounds {x : Float}
    (hLo : (-(1.0 / 0.0) : Float) < x) (hHi : x < (1.0 / 0.0 : Float)) :
    Float.isFinite x = true := by
  show x.toModel.unpack.isFinite = true
  rcases unpack_finite_or_zero hLo hHi with ⟨s, h⟩ | ⟨s, m, e, hm, h, _⟩ <;>
    rw [h] <;> rfl
```

and then, in `Js/Norm.lean`:

```lean
theorem isFinite_iff {x : Float} :
    Float.isFinite x = true ↔ (-floatInf < x ∧ x < floatInf) :=
  ⟨fun h => ⟨float_lo_of_isFinite h, float_hi_of_isFinite h⟩,
   fun ⟨hLo, hHi⟩ => Number.FloatFacts.isFinite_of_bounds hLo hHi⟩
```

Both compile clean against the current tree under `lake env lean`.

The re-export needs a `grind_pattern` that fires on the bounds rather than
on `Float.isFinite x`, since the point is to reach `isFinite` when it is
not yet in the goal's vocabulary. Whether the `iff` or the bare reverse
implication is the better thing to pattern is the open design question —
an `iff` that rewrites `isFinite` away could disturb the existing
hypothesis-side inversion, which currently works and should not regress.

## A note on the statement

The natural reading of `Number.isFinite(x)` for a `number`-typed `x` is
`!Object.is(x, NaN) && -Infinity < x && x < Infinity`. That is true, but
the NaN conjunct is redundant: IEEE strict comparison already excludes
NaN, and the model records exactly that as `sameValue_nan_eq_false`, which
derives the NaN refutation *from* the two bounds. So the equivalence worth
recording is the two-conjunct one above.

The redundancy does not carry over to guard refutation. Where the guards
are refuted equality tests rather than bounds — the original `Point`
constructor's shape — the NaN guard is load-bearing, which is why
`float_lt_inf_of_beq_false` takes an explicit non-NaN hypothesis: NaN
refutes every equality test while satisfying no ordering.
